US07799787B2
N-(2-Cyclopropylethyl)-6-[4-(4-fluorophenoxy)piperidin-1-yl]pyridazine-3-carboxamide
The title compound was prepared in the same manner as described for Example 1, step 3 from 6-chloro-N-(2-cyclopropylethyl)pyridazine-3-carboxamide and 4-(4-fluorophenoxy)piperidine. 1H NMR (500 MHz, acetone-d6): δ 0.11-0.13 (m, 2H), 0.45-0.49 (m, 2H), 0.76-0.84 (m, 1H), 1.56 (q, 2H), 1.78-1.85 (m, 2H), 2.08-2.16 (m, 2H), 3.54 (q, 2H), 3.70-3.76 (m, 2H), 4.16-4.22 (m, 2H), 4.69-4.75 (m, 1H), 7.05-7.11 (m, 4H), 7.34 (d, 1H), 7.91 (d, 1H), 8.24 (s, 1H); MS (+ESI) m/z 385 (MH+).

reactant | 6-chloro-N-(2-cyclopropylethyl)pyridazine-3-carboxamide | ClC1=CC=C(N=N1)C(=O)NCCC1CC1 | C10H12ClN3O
reactant | 4-(4-fluorophenoxy)piperidine | FC1=CC=C(OC2CCNCC2)C=C1 | C11H14FNO
product | N-(2-Cyclopropylethyl)-6-[4-(4-fluorophenoxy)piperidin-1-yl]pyridazine-3-carboxamide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)OC1=CC=C(C=C1)F | C21H25FN4O2
